US04333928
A solution of 1.3 g of 16β-ethyl-3-methoxy-18-methyl-1,3,5(10)-estratrien-17-one in 14.5 ml of glacial acetic acid and 2 ml of concentrated hydrochloric acid is stirred for 16 hours at room temperature. Then the mixture is poured into water, extracted with ethyl acetate, the ethyl acetate extracts washed in succession with saturated NaHCO3 solution and saturated NaCl solution, dried over sodium sulfate, and concentrated under vacuum. The oily crude product is reduced according to 1(d) with sodium borohydride. Chromatography on silica gel with petroleum ether/ethyl acetate yields 620 mg of 16α-ethyl-3-methoxy-18-methyl-1,3,5(10)-estratrien-17β-ol, m.p. 112°-114° C. (from methanol).

reactant | 16β-ethyl-3-methoxy-18-methyl-1,3,5(10)-estratrien-17-one | 1.3 g | C(C)[C@@H]1C([C@]2(CC)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)=O | C22H30O2
reactant | water | O | H2O
solvent | acetic acid | 14.5 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 2 ml | Cl | ClH
product | 16α-ethyl-3-methoxy-18-methyl-1,3,5(10)-estratrien-17β-ol | 620 mg | C(C)[C@H]1[C@@H]([C@]2(CC)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)O | C22H32O2
